US07745641B2
In a similar manner to Step 1 of Example 429, 4-chloro-5-hydroxy-7-iodoisoindolinone (283 mg, 0.916 mmol) was dissolved in DMF (8.4 mL), and the solution was treated with potassium carbonate (190 mg, 1.37 mmol), tetrabutylammonium iodide (33.8 mg, 0.092 mmol) and 3-bromopropylcarbamic acid tert-butyl ester (654 mg, 2.75 mmol). The reaction mixture was added with water. The obtained solid was collected by filtration and purified by slurry using hexane and diisopropylether to obtain 4-chloro-5-[3-(tert-butoxycarbonylamino)propoxy]-7-iodoisoindolinone (350 mg, yield 84%).

reactant | 4-chloro-5-hydroxy-7-iodoisoindolinone | 0.916 mmol, 283 mg | ClC1=C2CNC(C2=C(C=C1O)I)=O | C8H5ClINO2
reactant | potassium carbonate | 1.37 mmol, 190 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromopropylcarbamic acid tert-butyl ester | 2.75 mmol, 654 mg | C(C)(C)(C)OC(NCCCBr)=O | C8H16BrNO2
reactant | water | O | H2O
solvent | DMF | 8.4 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 0.092 mmol, 33.8 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-chloro-5-[3-(tert-butoxycarbonylamino)propoxy]-7-iodoisoindolinone | 350 mg, yield 84% | ClC1=C2CNC(C2=C(C=C1OCCCNC(=O)OC(C)(C)C)I)=O | C16H20ClIN2O4
